### PR TITLE
feat: define the additive submonoid of positive elements in a star ordered ring

### PR DESCRIPTION
**Pull request by j-loreaux**
This file defines the `AddSubmonoid` of nonegative elements `StarOrderedRing.positive R` in a star ordered ring `R` with carrier `{ x : R | 0 ≤ x }` (in fact, the definition only requires `OrderedAddCommMonoid R` to allow for other use cases, but it is primarily intended for `StarOrderedRing R`). Equivalently, this is the `AddSubmonoid` generated by the elements of the form `star s * s`. Even though this technically corresponds to the nonnegative elements, the "positive" terminology is standard throughout the literature (at least in C⋆-algebra theory and operator theory), so we choose to prefer that.

The advantage of using this over other definitions of positivity is that it allows us to unify several different concepts under a single umbrella. For example, one might be tempted to consider the collection of bounded linear operators on an Hilbert space and define positivity as `∀ x, 0 ≤ ⟪T x, x⟫`, but this doesn't generalize nicely to C⋆-algebras. Alternatively, one could define positivity as those self-adjoint elements with nonnegative spectrum, but this requires the algebra to be unital. Our definition herein conveniently sidesteps these issues.

---
Note: I declared the `AddMonoidWithOne` and `AddGroupWithOne` instances for `selfAdjoint R` separately because it made the proof of the latter easier.

- [x] depends on: #6229
- [x] depends on: #10209

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/Star/Positive.lean [hunk 1]
```diff
@@ -0,0 +1,178 @@
...
+
+universe u
+
+variable {R : Type u}
+
+namespace StarOrderedRing
+
+def positive (R : Type u) [NonUnitalSemiring R] [PartialOrder R] [StarOrderedRing R] :
+    AddSubmonoid R :=
+  AddSubmonoid.closure (Set.range fun s : R => star s * s)
```
Comment (eric-wieser) [inline Mathlib/Algebra/Star/Positive.lean:49]: Just in case anyone sees this PR but not the Zulip thread; I'd argue we want instead
```
def AddSubmonoid.nonneg (M : Type u) [OrderedAddCommMonoid M] : AddSubmonoid M where
  carrier := {m : M | 0 ≤ m}
  zero_mem := le_rfl
  add_mem := add_nonneg
```
which as I understand it is strictly more general. This could probably go in `Mathlib/Algebra/Order/Nonneg/Ring.lean`.

File: Mathlib/Algebra/Star/Positive.lean [hunk 2]
```diff
@@ -0,0 +1,178 @@
...
+    bot := 0
+    bot_le := fun x => positive_iff.mp x.prop
+    exists_add_of_le := @fun x y (h : (x : R) ≤ y) => by
+      convert le_iff_exists_positive.mp h using 1
+      funext p
+      rw [@eq_comm _ y]
+      exact_mod_cast rfl
+    le_self_add := fun x y => show (x : R) ≤ x + y from le_iff_exists_positive.mpr ⟨y, rfl⟩ }
+
+theorem positive.isSelfAdjoint (x : positive R) : IsSelfAdjoint (x : R) := by
```
Comment (eric-wieser) [inline Mathlib/Algebra/Star/Positive.lean:86]: I think this result should probably also exist as a `lemma StarOrderedRing.IsSelfAdjoint_of_nonneg`, in `Mathlib/Algebra/Star/Order.lean`

File: Mathlib/Algebra/Star/Positive.lean [hunk 3]
```diff
@@ -0,0 +1,178 @@
...
+
+end NonUnitalSemiring
+
+namespace positive
+
+section NonUnitalRing
+
+variable [NonUnitalRing R] [PartialOrder R] [StarOrderedRing R]
+
+-- annoyingly, this requires an `AddCommGroup` because `selfAdjoint` does
```
Comment (eric-wieser) [inline Mathlib/Algebra/Star/Positive.lean:100]: Is this actually annoying for a use case you have in mind?

Comment (j-loreaux) [reply Mathlib/Algebra/Star/Positive.lean:100]: Admittedly no, it's just that this kind of modest lack of generality seems to continually come back to bite me later.

File: Mathlib/Algebra/Star/Positive.lean (hunk 2 above)
Comment (j-loreaux) [reply Mathlib/Algebra/Star/Positive.lean]: I added it, but left it in `Positive.lean` because otherwise I would need to import `SelfAdjoint.lean` into `Order.lean`

File: Mathlib/Algebra/Star/Positive.lean (hunk 3 above)
Comment (eric-wieser) [reply Mathlib/Algebra/Star/Positive.lean]: I'm happy with the comment of you feel strongly; I ran into this too but also had no real justification for the generalization.

File: Mathlib/Algebra/Star/Order.lean [hunk 4]
```diff
@@ -147,6 +147,11 @@ theorem nonneg_iff [NonUnitalSemiring R] [PartialOrder R] [StarOrderedRing R] {x
   simp only [le_iff, zero_add, exists_eq_right']
 #align star_ordered_ring.nonneg_iff StarOrderedRing.nonneg_iff
 
+theorem le_iff' [NonUnitalSemiring R] [PartialOrder R] [StarOrderedRing R] {x y : R} :
```
Comment (eric-wieser) [inline Mathlib/Algebra/Star/Order.lean:150]: Isn't this `exists_add_iff_le` or something? Maybe I've imagined that we actually have that

File: Mathlib/Algebra/Star/Order.lean [hunk 5]
```diff
@@ -191,3 +196,18 @@ theorem conjugate_le_conjugate' {a b : R} (hab : a ≤ b) (c : R) : c * a * star
...
 
 end NonUnitalSemiring
+
+namespace StarOrderedRing
+
+instance instZeroLEOneClass [Semiring R] [PartialOrder R] [StarOrderedRing R] :
+    ZeroLEOneClass R where
+  zero_le_one := by simpa using star_mul_self_nonneg (1 : R)
+
+-- TODO: Move me
```
Comment (eric-wieser) [inline Mathlib/Algebra/Star/Order.lean:206]: I think this could do with a docstring

File: Mathlib/Algebra/Star/Positive.lean [hunk 6]
```diff
@@ -0,0 +1,183 @@
...
+variable {R : Type u}
+
+namespace StarOrderedRing
+
+/-- The positive elements of a star ordered ring, as an additive submonoid.
+
+Note that the type class assumptions for `StarOrderedRing.positive` are actually significantly
+weaker (just `OrderedAddCommMonoid`) so that it can be used in as many contexts as possible, but
+the primary intended use case is when `R` is a `StarOrderedRing`.  -/
+def positive (R : Type u) [OrderedAddCommMonoid R] : AddSubmonoid R where
```
Comment (eric-wieser) [inline Mathlib/Algebra/Star/Positive.lean:55]: I'd argue this belongs in nonneg/ring, as it can be used to golf some instances there

File: Mathlib/Algebra/Star/Positive.lean [hunk 7]
```diff
@@ -0,0 +1,183 @@
...
+
+section NonUnitalSemiring
+
+variable [NonUnitalSemiring R] [PartialOrder R] [StarOrderedRing R]
+
+theorem positive_iff {x : R} :
+    x ∈ positive R ↔ x ∈ AddSubmonoid.closure (Set.range fun s : R => star s * s) := by
+  rw [positive_def, nonneg_iff]
+
+theorem positive_coe_set : (positive R : Set R) = {x | 0 ≤ x} := rfl
```
Comment (eric-wieser) [inline Mathlib/Algebra/Star/Positive.lean:72]: This belongs in the previous section without the star assumptions

File: Mathlib/Algebra/Star/Positive.lean [hunk 8]
```diff
@@ -0,0 +1,183 @@
...
+theorem isSelfAdjoint_of_nonneg [NonUnitalSemiring R] [PartialOrder R] [StarOrderedRing R]
+    {x : R} (hx : 0 ≤ x) : IsSelfAdjoint x := by
+  rw [nonneg_iff] at hx
+  refine AddSubmonoid.closure_induction hx ?_ (isSelfAdjoint_zero R) fun _ _ => IsSelfAdjoint.add
+  rintro - ⟨s, rfl⟩
+  exact IsSelfAdjoint.star_mul_self s
+
+theorem le_iff_exists_positive {x y : R} : x ≤ y ↔ ∃ p : positive R, y = x + p := by
+  rw [le_iff']
+  constructor
```
Comment (eric-wieser) [inline Mathlib/Algebra/Star/Positive.lean:83]: Is this `Subtype.exists` from here?

File: Mathlib/Algebra/Star/SelfAdjoint.lean [hunk 9]
```diff
@@ -318,8 +318,21 @@ section Ring
 
 variable [Ring R] [StarRing R]
 
-instance : One (selfAdjoint R) :=
```
Comment (eric-wieser) [inline Mathlib/Algebra/Star/SelfAdjoint.lean:321]: I think it's probably best to define this first and then build the new instance out of it

File: Mathlib/Algebra/Star/Order.lean (hunk 4 above)
Comment (j-loreaux) [reply Mathlib/Algebra/Star/Order.lean:150]: We have [le_iff_exists_add](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Algebra/Order/Monoid/Canonical/Defs.html#le_iff_exists_add), but this has no nonnegativity condition and requires a `CanonicallyOrderedAddMonoid`, and we have [le_iff_exists_nonneg_add](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Algebra/Order/Ring/Defs.html#le_iff_exists_nonneg_add), but that requries an `OrderedRing`.

However, it should be possible to add a non-strict version of the lemma [exists_pos_add_of_lt'](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Algebra/Order/Monoid/Canonical/Defs.html#exists_pos_add_of_lt') under a `ContravariantClass α α (· + ·) (· ≤ ·)`. That being said, it doesn't really help us here because I think we can't conclude that without the `OrderedAddCommGroup` instance when we have a `NonUnitalRing` (instead of a `NonUnitalSemiring`).

One possible solution would be to hardcode the `ContravariantClass` condition into the definition of `StarOrderedRing` (I can't think of any counterexamples where we would want a `StarOrderedRing` class but it doesn't satisfy the `ContravariantClass` condition, but perhaps I'm just not thinking hard enough), but that requires another change to the definition.

File: Mathlib/Algebra/Star/Positive.lean (hunk 8 above)
Comment (j-loreaux) [reply Mathlib/Algebra/Star/Positive.lean:83]: Thanks! I was looking for that and didn't find it, but now I realized I could have just `simp`ed to get there.

File: Mathlib/Algebra/Star/Positive.lean (hunk 6 above)
Comment (j-loreaux) [reply Mathlib/Algebra/Star/Positive.lean]: I've put this (and one for `Subsemiring`) in the appropriate subobject files; I didn't place them in `Algebra.Order.Nonneg.Ring` in order to avoid import creep. Now `StarOrderedRing.positive` is just an alias for `AddSubmonoid.nonneg`, but we keep a separate name because we prefer it and also because we will place many instances on it.

File: Mathlib/Data/Nat/Cast/Basic.lean
Comment (eric-wieser) [inline Mathlib/Data/Nat/Cast/Basic.lean:1]: I think I'd prefer to see these changes backported (i.e., PRed to mathlib3 first), just in case.

Comment (j-loreaux) [reply Mathlib/Data/Nat/Cast/Basic.lean:1]: At this point, given all the changes to already ported files, I'm expecting this not to be merged until after the port, hence I didn't bother.

File: Mathlib/Algebra/Star/Positive.lean [hunk 10]
```diff
@@ -0,0 +1,187 @@
...
+In addiiton, we note that `StarOrderedRing.positive` is just an alias of `AddSubmonoid.nonneg`, but
+we choose to keep these separate for naming purposes and also because we will add many instances to
+this object (viewed as a type).
+
+Regarding naming of lemmas: whenever a lemma involves a hypothesis of the form `0 ≤ x`, it will be
+referenced as `nonneg` in the declaration name, and we always prefer `0 ≤ x` over `x ∈ positive R`,
+even though these are definitionally equal. However, when the hypothesis is `x : positive R` (note
+the `:` versus `∈`), the declaration name will use `positive`, not `pos`, so as to avoid confusion
+with `0 < x`. -/
+alias AddSubmonoid.nonneg ← positive
```
[the remark this answers is not in the document]
Comment (j-loreaux) [reply Mathlib/Algebra/Star/Positive.lean:65]: My understanding is that `alias` is equivalent to:
```lean
def newName same_hypothesesas_as_oldName := oldName
```
so in particular it has `default` transparency, as opposed to `reducible`, which is what I would get with `abbrev`. I think that's what we want. And to allow for Moritz to maybe use unbounded operators, I have left out the hypothesis `StarOrderedRing`.

File: Mathlib/Algebra/Star/Positive.lean [hunk 11]
```diff
@@ -0,0 +1,187 @@
...
+
+namespace StarOrderedRing
+
+/-- The positive elements of a star ordered ring, as an additive submonoid.
+
+Note that the type class assumptions for `StarOrderedRing.positive` are actually significantly
+weaker (just `OrderedAddCommMonoid`) so that it can be used in as many contexts as possible, but
+the primary intended use case is when `R` is a `StarOrderedRing`.
+
+In addiiton, we note that `StarOrderedRing.positive` is just an alias of `AddSubmonoid.nonneg`, but
```
Comment (eric-wieser) [inline Mathlib/Algebra/Star/Positive.lean:56]:
```suggestion
In addition, we note that `StarOrderedRing.positive` is just an alias of `AddSubmonoid.nonneg`, but
```

File: Mathlib/Algebra/Star/Positive.lean [hunk 12]
```diff
@@ -0,0 +1,187 @@
...
+
+instance positive.instCanonicallyOrderedAddMonoid : CanonicallyOrderedAddMonoid (positive R) :=
+  { inferInstanceAs (OrderedAddCommMonoid (positive R)) with
+    bot := 0
+    bot_le := Subtype.prop
+    exists_add_of_le := @fun x y (h : (x : R) ≤ y) => by
+      convert le_iff_exists_positive.mp h using 1
+      funext p
+      exact_mod_cast rfl
+    le_self_add := fun x y => show (x : R) ≤ x + y from le_iff_exists_positive.mpr ⟨y, rfl⟩ }
```
Comment (eric-wieser) [inline Mathlib/Algebra/Star/Positive.lean:105]: Isn't this just [`Nonneg.canonicallyOrderedAddMonoid`](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Algebra/Order/Nonneg/Ring.html#Nonneg.canonicallyOrderedAddMonoid)?

File: Mathlib/Algebra/Star/Positive.lean (hunk 10 above)
[the remark this answers is not in the document]
Comment (eric-wieser) [reply Mathlib/Algebra/Star/Positive.lean:65]: I don't see what we gain by not making it be reducible.

[the remark this answers is not in the document]
Comment (j-loreaux) [reply Mathlib/Algebra/Star/Positive.lean:65]: It prevents us from accidentally acquiring instances from `AddSubmonoid.nonneg` on `StarOrderedRing.positive`. My bet is that it's a non-issue, but potentially annoyingly difficult to debug if it ever does arise. Moreover, I would prefer not to see `AddSubmonoid.nonneg` as the result of some `whnfR` just because this is at reducible transparency. I'm not sure why being reducible would benefit us in this situation. I'm open to being wrong here.

File: Mathlib/Algebra/Star/Positive.lean (hunk 12 above)
Comment (j-loreaux) [reply Mathlib/Algebra/Star/Positive.lean:105]: No, that requires an `OrderedRing` instance (although I didn't actually check if it's necessary).

File: Mathlib/Algebra/Star/Positive.lean [hunk 13]
```diff
@@ -0,0 +1,178 @@
...
+  exists_pair_ne := ⟨1, 0, NeZero.ne 1⟩
+
+instance instNatCast : NatCast (positive R) where
+  natCast n := ⟨n, n.cast_nonneg'⟩
+
+@[simp, norm_cast]
+theorem val_natCast (n : ℕ) : ((n : positive R) : R) = n := rfl
+
+instance instAddCommMonoidWithOne : AddCommMonoidWithOne (positive R) :=
+  Subtype.val_injective.addCommMonoidWithOne _ rfl rfl (fun _ _ => rfl) (fun _ _ => rfl) val_natCast
```
Comment (eric-wieser) [inline Mathlib/Algebra/Star/Positive.lean:161]: Can you get any of these by generalizing the results in `Mathlib/Algebra/Order/Nonneg/Ring.lean`?

**Comment by joneugster** [comment]
Mathlib has moved to PRs from forks. This PR is still from a branch of the main repository and will soon be closed! Please migrate the content to a fork and reopen a PR from there if you wish to do so. See [Zulip topic](https://leanprover.zulipchat.com/#narrow/channel/287929-mathlib4/topic/all.20future.20PRs.20should.20be.20made.20from.20forks/with/624081853) for more instructions. Thank you for contributing to mathlib!
